US09290485B2
a) (7-methylquinolin-3-yl)methanol
To a solution of 7-methyl-3-quinoline carboxaldehyde (200 mg, 1.168 mmol) in THF (4.5 ml) was added 2M LiBH4 solution in THF (2.337 ml, 4.67 mmol) at 0° C. Reaction mixture was stirred at 0° C. for 2 h, then slowly poured into NaHCO3 sat. solution and extracted twice with ethyl acetate. Organic layer was dried over sodium sulfate, filtered and evaporated to afford the crude material, which was purified by silica gel chromatography (cyclohexane/ethyl acetate form 100/0 to 0/100) to afford the title compound. HPLC (Method G) Rt=0.68 min, MS (Method V) [M+H]+=174.2.

reactant | 7-methyl-3-quinoline carboxaldehyde | 1.168 mmol, 200 mg | CC1=CC=C2C=C(C=NC2=C1)C=O | C11H9NO
reactant | LiBH4 | 2M | [Li+].[BH4-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
solvent | THF | 4.67 mmol, 2.337 ml | C1CCOC1 | C4H8O
product | (7-methylquinolin-3-yl)methanol | CC1=CC=C2C=C(C=NC2=C1)CO | C11H11NO
